US07906645B2
2-[(Benzyloxy)methyl]-4-tert-butylmorpholine
A solution of 1-(benzyloxy)-3-[tert-butyl(2-hydroxyethyl)amino]propan-2-ol (100 mg) in THF (20 mL) was stirred at room temperature under argon. Sodium hydride (60%, 35 mg) was added and the mixture was stirred for 2 hours. The mixture was cooled to ice bath temperature and para-toluenesulfonyl imidazole (79 mg) was added. After 30 minutes the mixture was warmed to room temperature and stirred overnight. The reaction was quenched with saturated aqueous ammonium chloride and then partitioned between 1:1 brine/saturated aqueous sodium hydrogen carbonate and ethyl acetate. The organic layer was washed with 1:1 brine/saturated aqueous sodium hydrogen carbonate, dried (MgSO4), filtered and concentrated at reduced pressure. The residue was purified on the Isco™ Companion (12 g column: 0-10% MeOH in DCM) to give the title compound as a colourless oil (85 mg).

reactant | 1-(benzyloxy)-3-[tert-butyl(2-hydroxyethyl)amino]propan-2-ol | 100 mg | C(C1=CC=CC=C1)OCC(CN(CCO)C(C)(C)C)O | C16H27NO3
reactant | Sodium hydride | 35 mg | [H-].[Na+]
reactant | para-toluenesulfonyl imidazole | 79 mg | C1(=CC=C(C=C1)S(=O)(=O)C=1NC=CN1)C | C10H10N2O2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[(Benzyloxy)methyl]-4-tert-butylmorpholine | 85 mg | C(C1=CC=CC=C1)OCC1CN(CCO1)C(C)(C)C | C16H25NO2
